US07632829B2
(R)-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester
In analogy to the procedure described in intermediate 78A, 3-benzyloxycarbonylamino-propanoic acid methyl ester and (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester (Bioorg. Med. Chem. Lett. 2006, 16, 1207) gave the title compound. Colorless gum, MS: m/e=263.1 (MH+).

reactant | 3-benzyloxycarbonylamino-propanoic acid methyl ester | COC(CCNC(=O)OCC1=CC=CC=C1)=O | C12H15NO4
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
product | (R)-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CNC(CC1)=O)C | C14H18N2O3
